US07297700B2
Preparation of 7-benzyl-4-hydroxy-5,6,7,8-tetrahydro-[1,7]naphthyridine-3-carboxylic acid methyl ester
To a suspension of NaOtBu (4.23 g, 34.57 mM) in THF (50 mL) was added a mixture of ethyl 3-amino-1-benzyl-1,2,5,6-tetrahydropyridine-4-carboxylate (3.0 g, 11.52 mM) and methyl 3,3-dimethoxypropanoate (5.12 g, 34.57 mM) in THF (20 mL) in one portion and the mixture was agitated at ambient temperature overnight. The mixture was concentrated to half the volume before being quenched with ice-cold water. The homogeneous solution was extracted ethyl ether and the aqueous layer was carefully acidified with HCl until acidic. The precipitate was filtered, washed with water, and dried under vacuum to obtain the title compound as an off-white solid (1.6 g, 47%).

reactant | NaOtBu | 34.57 mM, 4.23 g | CC(C)(C)[O-].[Na+]
reactant | ethyl 3-amino-1-benzyl-1,2,5,6-tetrahydropyridine-4-carboxylate | 11.52 mM, 3.0 g | NC=1CN(CCC1C(=O)OCC)CC1=CC=CC=C1 | C15H20N2O2
reactant | methyl 3,3-dimethoxypropanoate | 34.57 mM, 5.12 g | COC(CC(=O)OC)OC | C6H12O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 7-benzyl-4-hydroxy-5,6,7,8-tetrahydro-[1,7]naphthyridine-3-carboxylic acid methyl ester | 1.6 g, 47% | COC(=O)C=1C=NC=2CN(CCC2C1O)CC1=CC=CC=C1 | C17H18N2O3
